US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(pyridin-3-yl)benzamido)-4-phenylbenzoate (0.14 g) in ethyl acetate (1 mL) and methanol (1 mL), 10% palladium-carbon (14 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 1 hour and 30 minutes. To the reaction mixture, 10% palladium-carbon (14 mg) was added. The resulting mixture was stirred under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. Acetic acid (2 mL) and 10% palladium-carbon (0.11 g) were added to the reaction mixture, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Ethyl acetate and a saturated aqueous solution of sodium bicarbonate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Trifluoroacetic acid (5 mL) was added to the obtained residue, followed by stirring at room temperature for 5 hours. The solvent was evaporated under reduced pressure, and water and ethyl acetate were added to the residue. After adjusting the pH to 5 with a saturated aqueous solution of sodium bicarbonate, the solid substance was collected by filtration to obtain 0.070 g of 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-phenylbenzoic acid as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyridin-3-yl)benzamido)-4-phenylbenzoate | 0.14 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1C=NC=CC1 | C36H32N2O4
reactant | Acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | 14 mg | [C].[Pd]
catalyst | palladium-carbon | 14 mg | [C].[Pd]
catalyst | palladium-carbon | 0.11 g | [C].[Pd]
product | 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-phenylbenzoic acid | 0.070 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C=1C=NC=CC1 | C25H18N2O4
